US09079866B2
5-{2′-[(2-Aminopyridin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)pyridin-2-amine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H16FN5O, 373.13; m/z found, 374.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.44 (s, 2H), 7.77 (d, J=6.3, 1H), 7.65-7.48 (m, 3H), 7.45-7.32 (m, 3H), 7.25 (d, J=8.0, 1H), 6.88 (s, 2H), 6.52 (s, 2H), 6.23 (dd, J=6.3, 2.2, 1H), 5.87 (d, J=2.2, 1H).

reactant | 4-(2-bromophenoxy)pyridin-2-amine | BrC1=C(OC2=CC(=NC=C2)N)C=CC=C1 | C11H9BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(2-Aminopyridin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | NC1=NC=CC(=C1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C21H16FN5O
